US07202253B2
To a suspension of LAH (3.8 g, 0.1 mol) cooled to 0° C. was slowly added 1-phenyl-cyclohexanecarboxylic acid (10.2 g, 50.0 mmol). After stirring from 0° C. to rt overnight, the reaction mixture was quenched with H2O (3.8 mL), 15% NaOH (3.8 mL), H2O (11.4 mL) and filtered. The salt was washed with Et2O and the combined organic phase dried over anhydrous sodium sulfate to give (1-phenyl-cyclohexyl)-methanol (8.48 g, 89%) as a white solid. 1H NMR (CDCl3, 300 MHz) δ (ppm) 1.30–1.70 (9H, m), 2.15–2.36 (2H, m), 3.51 (2H, s), 7.20–7.27 (1H, m), 7.34–7.41 (4H, m). Mass Spec [M+H]+=191.1.

reactant | LAH | 0.1 mol, 3.8 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 1-phenyl-cyclohexanecarboxylic acid | 50.0 mmol, 10.2 g | C1(=CC=CC=C1)C1(CCCCC1)C(=O)O | C13H16O2
product | (1-phenyl-cyclohexyl)-methanol | 8.48 g, 89% | C1(=CC=CC=C1)C1(CCCCC1)CO | C13H18O
